US07696213B2
Trans-4-(2-amino-5-bromo-6-methylpyrimidin-4-ylamino)cyclohexanol
To a solution of (trans-4-(2-amino-6-methylpyrimidin-4-ylamino)cyclohexanol (1.33 g, 5.98 mmol) in chloroform (15 mL) was added N-bromosuccinamide (1.08 g, 6.04 mmol). After stirring at room temperature for 1.5 hr, the solution was concentrated. The residue was purified by flash chromatography eluting with chloroform/7 N ammonia in methanol (0.5-5%) to afford the title compound (1.14 g, 63%).

reactant | trans-4-(2-amino-6-methylpyrimidin-4-ylamino)cyclohexanol | 5.98 mmol, 1.33 g | NC1=NC(=CC(=N1)N[C@@H]1CC[C@H](CC1)O)C | C11H18N4O
reactant | N-bromosuccinamide | 6.04 mmol, 1.08 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | Trans-4-(2-amino-5-bromo-6-methylpyrimidin-4-ylamino)cyclohexanol | 1.14 g, 63% | NC1=NC(=C(C(=N1)N[C@@H]1CC[C@H](CC1)O)Br)C | C11H17BrN4O
